US07417064B2
4-Methoxy-1-benzothiophene-2-carbonitrile
(Ref: Cheutin et al.; C.R. Hebd. Seances Acad. Sci; 261; 1965; 705.) A solution of 4-methoxy-1-benzothiophene-2-carboxylic acid (1.19 g, 5.7 mmol) in pyridine (25 mL) at 0° C. was treated with methanesulfonyl chloride (0.49 mL, 6.3 mmol) keeping the temperature at 0° C., stirring was continued for 2 h. Ammonia gas was then bubbled through the mixture for 5 minutes, followed by nitrogen for 10 mins. The reaction mixture was then treated with a large excess of mesyl chloride (4.43 mL, 57 mmol) and stirred for 16 h at room temperature. The solvent evaporated in vacuo to give a brown residue which was purified by flash chromatography with 10% ethyl acetate in hexane to give a colourless solid (800 mg, 74%); δH (300 MHz, CDCl3) 8.00 (1H, s, 3-ArH), 7.48-7.35 (2H, m, ArH), 6.80-6.77 (1H, m, ArH) and 3.92 (3H, s, OCH3).

reactant | 4-methoxy-1-benzothiophene-2-carboxylic acid | 5.7 mmol, 1.19 g | COC1=CC=CC2=C1C=C(S2)C(=O)O | C10H8O3S
reactant | methanesulfonyl chloride | 6.3 mmol, 0.49 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesyl chloride | 57 mmol, 4.43 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-1-benzothiophene-2-carbonitrile | 800 mg, 74% | COC1=CC=CC2=C1C=C(S2)C#N | C10H7NOS
